US07060827B2
In a manner analogous to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, the reaction of benzothiophen-3-ylmethylamine (244 mg, 1.5 mmol) and 2,4-dichloro-5-fluoropyrimidine (50 mg, 0.3 mmol) gave N4-(benzothiophen-3-ylmethyl)-2-chloro-5-fluoro-4-pyrimidineamine. The reaction of N4-(benzothiophen-3-ylmethyl)-2-chloro-5-fluoro-4-pyrimidineamine and 3-aminophenol (200 mg, 1.83 mmol) gave N4-(benzothiophen-3-ylmethyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine. (40 mg, 36%). 1H NMR (CDCl3): δ 4.45 (br, 1H), 4.95 (dd, J=1.2 and 5.4 Hz, 2H), 5.33 (br, 1H), 6.40 (ddd, J=1.2, 2.4 and 8.1 Hz, 1H), 6.85 (ddd, J=0.9, 2.1 and 8.1 Hz, 1H), 6.91 (br, 1H), 7.05 (t, J=8.1 Hz, 1H), 7.26 (m, 1H), 7.39-7.47 (m, 3H), 7.81 (dd, J=1.2 and 5.1 Hz, 1H), 7.84 (d, J=3.3 Hz, 1H), 7.92 (m, 1H); 19F NMR (282 MHz, CDCl3): δ −168.89; LCMS: ret. time: 21.91 min.; purity: 99.34%; MS (m/e): 366.96 (MH+).

reactant | N4-(benzothiophen-3-ylmethyl)-2-chloro-5-fluoro-4-pyrimidineamine | S1C=C(C2=C1C=CC=C2)CNC2=NC(=NC=C2F)Cl | C13H9ClFN3S
reactant | 3-aminophenol | 1.83 mmol, 200 mg | NC=1C=C(C=CC1)O | C6H7NO
product | N4-(benzothiophen-3-ylmethyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | S1C=C(C2=C1C=CC=C2)CNC2=NC(=NC=C2F)NC2=CC(=CC=C2)O | C19H15FN4OS
